US07678913B2
B. N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-2-(1,1-dimethylethyl)-2-(4-chlorophenylaminocarbonylamino)-acetamide
To a solution of DL-tert-leucine (43 mg, 0.33 mmol) in DMF (2 mL), 4-chlorophenyl isocyanate (50 mg, 0.33 mmol) was added. The mixture was then stirred at room temperature overnight. To the reaction mixture, 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine (150 mg, 0.86 mmol) and H2O (0.5 mL, to solubilize the amine) were added. To the solution, EDC (127 mg, 0.66 mmol) was added. After being stirred at room temperature overnight, the solution was concentrated in vacuo. The residue was purified by HPLC to give the titled compound as a powder (35 mg). MS 442.1 and 444.1 (M+H, Cl pattern).

reactant | DL-tert-leucine | 0.33 mmol, 43 mg | NC(C(C)(C)C)C(=O)O | C6H13NO2
reactant | 4-chlorophenyl isocyanate | 0.33 mmol, 50 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine | 0.86 mmol, 150 mg | CN1C(=NCC1)C1=CC=C(C=C1)N | C10H13N3
reactant | EDC | 0.66 mmol, 127 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-2-(1,1-dimethylethyl)-2-(4-chlorophenylaminocarbonylamino)-acetamide | 35 mg | CN1C(=NCC1)C1=CC=C(C=C1)NC(C(NC(=O)NC1=CC=C(C=C1)Cl)C(C)(C)C)=O | C23H28ClN5O2
